US06861419B2
Proceeding as in Reference 5, Step 5.1, but substituting 2,3,4-timethoxy-benzaldehyde for 2,4-dimethoxybenzaldehyde and 3-acetyl-4-hydroxy-6-methyl-5,6-dihydro-pyran-2-one for 3-acetyl-4-hydroxy-6-methyl-pyran-2-one, provided 4-hydroxy-6-methyl-3-[(E)-3-(2,3,4-trimethoxy-phenyl)-acryloyl]-5,6-dihydro-pyran-2-one.

reactant | 2,4-dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | 3-acetyl-4-hydroxy-6-methyl-5,6-dihydro-pyran-2-one | C(C)(=O)C=1C(OC(CC1O)C)=O | C8H10O4
reactant | 3-acetyl-4-hydroxy-6-methyl-pyran-2-one | C(C)(=O)C=1C(OC(=CC1O)C)=O | C8H8O4
product | 4-hydroxy-6-methyl-3-[(E)-3-(2,3,4-trimethoxy-phenyl)-acryloyl]-5,6-dihydro-pyran-2-one | OC1=C(C(OC(C1)C)=O)C(\C=C\C1=C(C(=C(C=C1)OC)OC)OC)=O | C18H20O7
